### PR TITLE
[Merged by Bors] - feat: index Chebyshev polynomials by integers instead of natural numbers

### PR DESCRIPTION
**Pull request by trivial1711**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
Maybe a little context would be helpful :)

**Comment by trivial1711** [comment]
Let $V$ be a module over a ring $R$ and let $V^* = \text{Hom}_R(V, R)$. Choose $x, y \in V$ and $f, g \in V^*$ such that $f(x) = g(y) = 2$. Then we can define the reflections $r_1, r_2 \in GL(V)$ by $r_1(v) = v - f(v)x$ and $r_2(v) = v - g(v)y$ (see [Module.reflection](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Reflection.html#Module.reflection)).

One of the important ingredients to defining a *reflection representation* of a Coxeter group is having some formula for the power $(r_1 r_2)^m$. That formula is:
$$(r_1 r_2)^m v = v - \frac{2 T_m(t/2) - 2}{t - 4} (f(v) x + g(v) y) + \frac{U_{m-1}(t/2) - U_{m-2} (t/2) - 1}{t - 4} g(x) f(v) y + \frac{U_{m}(t/2) - U_{m-1} (t/2) - 1}{t - 4} f(y) g(v) x$$
where $t = f(y) g(x) - 2$. This formula is messy, but it can be proved straightforwardly using induction. Also, all of the fractions in this formula are actually polynomials in $t$, so this formula works over any ring.

However, actually stating this formula for $m = 0$ (which had better be possible, because that is the base case of the induction) requires defining $U_{-2}$ and $U_{-1}$. And I figured that if I'm going to do that, I might as well define $U_n$ and $T_n$ for every integer $n$.

**Comment by urkud** [comment]
Would it be easier to define `T (n : Int)` as `oldT n.natAbs`? Or just add a lemma about `oldT n.natAbs`?

**Comment by trivial1711** [comment]
No, it is not easier. I tried it. Instead of having two-way induction, everything would be a proof by cases. The amount of code would be comparable, but it would be less readable and there would be an unnecessary function `oldT` lying around.

Also, you can't do the same thing with `U`. The best you can do is
`U R n = if n = -1 then 0 else oldU R ((n + 1).natAbs - 1)`, which is quite bad for doing any sort of proofs with.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 1]
```diff
@@ -51,25 +51,46 @@ and do not have `map (Int.castRingHom R)` interfering all the time.
...
 #align polynomial.chebyshev.T Polynomial.Chebyshev.T
 
+@[simp]
+theorem T_add_two : ∀ n, T R (n + 2) = 2 * X * T R (n + 1) - T R n
+  | (k : ℕ) => T.eq_3 R k
+  | -(k + 1 : ℕ) => by linear_combination (norm := int_ring_nf) T.eq_4 R k
+#align polynomial.chebyshev.T_add_two Polynomial.Chebyshev.T_add_two
+
+theorem T_add_one (n : ℤ) : T R (n + 1) = 2 * X * T R n - T R (n - 1) := by
+  linear_combination (norm := ring_nf) T_add_two R (n - 1)
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:82]: Isn't `ring_nf` the default?

Comment (eric-wieser) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:82]: The default is `ring1`, but this doesn't normalize the indices of `T R`

**Comment by eric-wieser** [comment]
Can you add the result linking your definition to the one @urkud suggests?

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 2]
```diff
@@ -78,26 +99,55 @@ theorem T_zero : T R 0 = 1 := rfl
...
-  obtain ⟨n, rfl⟩ := Nat.exists_eq_add_of_le h
-  rw [add_comm]
-  exact T_add_two R n
-#align polynomial.chebyshev.T_of_two_le Polynomial.Chebyshev.T_of_two_le
-
-/-- `U n` is the `n`-th Chebyshev polynomial of the second kind -/
-noncomputable def U : ℕ → R[X]
+@[simp]
+theorem T_neg (n : ℤ) : T R (-n) = T R n := by
+  induction n using T.induct R with
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:110]: Possibly worth defining a custom induction principle to avoid dealing with `Int.negSucc` etc:
```
@[elab_as_elim]
theorem T.induct' (motive : ℤ → Prop)
  (zero : motive 0)
  (one : motive 1)
  (add_two : ∀ (n : ℕ), motive (↑n + 1) → motive ↑n → motive (↑n + 2))
  (neg_add_one : ∀ (n : ℕ), motive (-↑n) → motive (-↑n + 1) → motive (-↑n - 1)) :
  ∀ (a : ℤ), motive a :=
  T.induct R motive zero one add_two fun n hn hnm => by
    simpa only [Int.negSucc_eq, neg_add] using neg_add_one n hn hnm
```

**Comment by trivial1711** [comment]
Thanks for the feedback; I'm now using a custom induction principle and I added the theorem about `T R n.natAbs`.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
